US04876249
Undecyl cyanide in Example 1 was substituted with 18.13 g (108.4 mmoles) of undecanenitrile and allowed to react with 7.5 ml (121.3) mmoles of aminoethanol in presence of cadmium acetate dihydrate (667 mg; 2.5 mmoles) in 1-butanol under identical reaction conditions. The reaction mixture was worked up following Example 1 and the residue was distilled at 118°-120°/1.2 mm to give 14.72 g (64.3%) of 2-decyl-2oxazoline.

reactant | Undecyl cyanide | C(CCCCCCCCCC)C#N | C12H23N
reactant | undecanenitrile | 108.4 mmoles, 18.13 g | C(CCCCCCCCCC)#N | C11H21N
reactant | aminoethanol | NC(C)O | C2H7NO
solvent | 1-butanol | C(CCC)O | C4H10O
catalyst | cadmium acetate dihydrate | 2.5 mmoles, 667 mg | O.O.C(C)(=O)[O-].[Cd+2].C(C)(=O)[O-]
product | 2-decyl-2oxazoline | 14.72 g, 64.3% | C(CCCCCCCCC)C=1OCCN1 | C13H25NO
